US08058431B2
In the next step the carbonyl function of the 1H-quinazolin-4-one derivative, or the 1H-pyrimidin-4-one derivative with a condensed 5-membered heterocyclic ring structure is reacted further e.g. with phosphorous pentasulfide or Lawesson's reagent to yield the 1H-quinazolin-4-thion derivatives, or the 1H-pyrimidin-4-thion one derivatives with a condensed 5-membered heterocyclic ring structure.

reactant | 1H-quinazolin-4-one | N1C=NC(C2=CC=CC=C12)=O | C8H6N2O
reactant | 1H-pyrimidin-4-one | N1C=NC(C=C1)=O | C4H4N2O
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 1H-quinazolin-4-thion | N1C=NC(C2=CC=CC=C12)=S | C8H6N2S
